2167-04-24 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2167-4-23**] 01:22 PM
   - HCT continued to trends down despite transfusion, had repeat CT scan
   which showed interval increase in size of hepatic/intraperitoneal
   hemorrhage, discussed with radiology and IR, will  aggressively
   transfuse for now
   - Received 4u pRBCs & hct went from 18 to 27
   (18--21--22
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2167-4-23**] 09:09 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2167-4-24**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 92 (78 - 120) bpm
   BP: 177/88(112) {109/70(86) - 177/100(151)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,272 mL
                                                                  1,279 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  1,423 mL
                                                                     77 mL
   Blood products:
                                                                  1,510 mL
                                                                    549 mL
   Total out:
                                                                  1,650 mL
                                                                  1,375 mL
   Urine:
                                                                  1,650 mL
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,622 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   CT abd [**4-23**]:
   UNCHANGED Moderate amount of intraperitoneal fluid, particularly in a
   perisplenic location with slightly increased density, not seen on prior
    study
   and is suggestive of intraperitoneal hemorrhage from recent transjugula
   r liver
   biopsy.  The sentinel clot is larger now measuring 4x 7 cm compared to
   the
   prior when it measured
   58 K/uL
   10.3 g/dL
   99 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   68 mg/dL
   105 mEq/L
   137 mEq/L
   27.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2167-4-23**]  09:27 AM
                             [**2167-4-23**]  12:25 PM
                             [**2167-4-23**]  04:34 PM
                             [**2167-4-23**]  06:53 PM
                             [**2167-4-23**]  08:48 PM
                             [**2167-4-24**]  03:32 AM
   WBC
   3.9
   4.9
   4.8
   4.4
   Hct
   20.0
   25.5
   18.3
   21.5
   22.6
   27.4
   Plt
   57
   46
   130
   107
   86
   58
   Cr
   2.0
   Glucose
   99
   Other labs: PT / PTT / INR:11.8/26.0/1.0, ALT / AST:133/101, Alk Phos /
   T Bili:123/5.0, Fibrinogen:291 mg/dL, Albumin:3.0 g/dL, LDH:780 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   [**4-21**]  Viral loads for CMV, HCV, HBV all neg
   [**4-23**] Liver Biopsy pending
   Assessment and Plan
   54 y.o. M with hx of recurrent multiple myeloma now s/p cord blood tx,
   Day +99 course c/b CMV viremia, BRBPR/diarrhea, ARF and low level
   hemolysis.
   .
   # s/p transjugular biopsy c/b bleed: with HCT drop, s/p 4u PRBCs
   overnight, CT abd showed stable hematoma,
   - serial HCT q4-6h, tranfuse for HCT less than 3 point drop
   - serial plts, goal transfusion plt ct>50
   - serial abdominal exam
   - surgery aware but would not go to OR for now
   - IR aware (page [**Numeric Identifier 1727**] , Dr. [**Last Name (STitle) 1728**] if needed)
   # Multiple myeloma s/p Cord Tranplant: Day +99, engrafted.  recent bone
   marrow day +79 <10% celllular, marked hypoplastic megakaryocytes.
   Chimerism: mostly donor so shouldn't be hemolysing
   - monitor cell counts - still transfusion dependent.
   - continue cellcept & methylpred
   - continue cyclosporin - lowered dose to 150mg [**Hospital1 **] on [**4-22**] - goal level
   200. f/u am cyclopsporin level & adjust prn
   .
   # BRBPR/Diarrhea: s/p EGD and colonoscopy that showed gastritis and
   previous duodenitis; Path negative for CMV/GVHD, also negative for
   evidence of amyloid. H. pylori positive, but will hold off on treating
   for now. Capusle studying demonstrated persistent bleeding in SB. No
   role for intervention at this time per GI recs. Pt with persistent
   diarrhea despite increased immunosuppression for presumed GVH.
   - Current immunosuppression regimen of cont solu-medrol 40mg [**Hospital1 **],
   cellcept 750mg IV BID, cyclosporin 150mg [**Hospital1 **]
   - continue sucralfate, pantoprazole
   - transfusion scales: keep hct>30 and platelets>30
   - rifaximin for possible bacterial overgrowth DC'd [**3-/2088**] due to concern
   for count suppression
   # Rising LFTs - possibly secondary to GVH given recent lowering of
   steroids corresponding to bump. past week increased LFT's, bili 1.3->
   3-> 5 (dbili 4). Also concern for CMV given previous viremia. Underwent
   transjugular liver biopsy on [**4-22**].
   - Abd US - WNL
   - Continue to monitor, TB 5 on [**4-22**]. Liver team consulted
   - will send hep panel, HSV, CMV pending
   - bx results pending
   # ARF: Cr stable 1.7-1.9. Likely multifactorial, including tacrolimus,
   cyclosporin toxicity, foscarnet, dehydration [**3-7**] chronic diarrhea,
   amyloidosis. Renal U/S negative. UPEP, SPEP negative.
   - monitor Cr
   - continue IVF PRN
   .
   # ID: afebrile: during course has been switched from foscarnet to
   valgancicovir, now to acyclovir due to renal insufficiency. Recent CMV
   VL negative. s/p multifocal PNA treated with vanc/cefpemine with
   resolution. Also during hospitalization developed Capnocytophaga (gram
   negative rod) on a blood culture drawn early in his course ([**1-19**]).
   Repeat blood cultures have been negative.
   - CXR with ? new infiltrate
   - consider atorvoquane as outpatient for PCP [**Name Initial (PRE) **]. Received pentamidine
   on [**4-15**]
   - started levaquin for atypical coverage given intermittent low grade
   fevers on [**4-22**], but will stop given low clinical suspicion
   - glucan and galactomannan pending
   .
   # CMV Viremia: CMV VL negative since mid-[**Month (only) **]. Duodenal and colonic
   CMV stains negative. CMV VL negative from [**3-23**]. Initially on
   valgancyclovir, then switched to foscarnet [**3-7**] renal failure and now
   recently switched to acyclovir
   - appreciate ID consult continue ACV 400 [**Hospital1 **] for CMV ppx indefinitely
   (at least 1 year)
   - CMV VL q5 days - all recent VL negative
   - cont. acyclovir
   .
   # HTN: slightly hypertensive
   - continue Norvasc &  labetalol 400 mg TID
   .
   # Nausea:
   - continue compazine
   - monitor symptoms
   .
   # Diabetes: Hyperglycemic with steroids
   - Continue ISS and insulin in TPN
   ICU Care
   Nutrition: TPN w/ Lipids - [**2167-4-24**] 06:34 AM 84 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-23**] 01:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI, Sucralfate
   Code status: Full code
   Disposition:ICU

2167-04-24 11:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct increased today, s/p 2 units PRBC overnight
   CT [**Last Name (un) 499**] repeated, increase in size of hematoma with increased
   peri-splenic blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2167-4-23**] 09:09 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-24**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 80 (78 - 120) bpm
   BP: 163/95(110) {109/70(86) - 177/100(151)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,272 mL
                                                                  1,586 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  1,423 mL
                                                                    109 mL
   Blood products:
                                                                  1,510 mL
                                                                    549 mL
   Total out:
                                                                  1,650 mL
                                                                  1,955 mL
   Urine:
                                                                  1,650 mL
                                                                  1,955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,622 mL
                                                                   -369 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: jaundiced
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, distended, no guarding, no
   ecchymoses on back
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   58 K/uL
   99 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   68 mg/dL
   105 mEq/L
   137 mEq/L
   27.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2167-4-23**]  09:27 AM
                             [**2167-4-23**]  12:25 PM
                             [**2167-4-23**]  04:34 PM
                             [**2167-4-23**]  06:53 PM
                             [**2167-4-23**]  08:48 PM
                             [**2167-4-24**]  03:32 AM
   WBC
   3.9
   4.9
   4.8
   4.4
   Hct
   20.0
   25.5
   18.3
   21.5
   22.6
   27.4
   Plt
   57
   46
   130
   107
   86
   58
   Cr
   2.0
   Glucose
   99
   Other labs: PT / PTT / INR:11.8/26.0/1.0, ALT / AST:133/101, Alk Phos /
   T Bili:123/5.0, Fibrinogen:291 mg/dL, Albumin:3.0 g/dL, LDH:780 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   54 yr old s/p cord blood transplant d 99, course complicated by CMV
   viremia and now GVHD.
   S/p transjugular biopsy complicated by acute bleed.
   1. Acute bleeding - in setting of transjugular bx with refractory
   thrombocytopenia. Will need to keep platelets > 50 until Hct
   stabilizes.
   Check hct [**5-10**] h for now. Aim for Hct ~23. Finally seems to be
   stabilizing.
   2. GVHD - on steroids, on cellcept, cyclo. On caspo for hx of fungal
   infection
   3. Thrombocytopenia - multifactorial, keep > 50K
   4. CMV viremia - most recent viral load negative on [**4-21**], on acyclovir
   5. ARF - making urine, not currently on dialysis, lytes ok
   6. HTN - stable, on norvasc, labetolol
   7. ID issues - low grade temps, no evidence of pneumonia. D/c levoflox.
   F/u cultures, so far negative.
   8. Pain control
 will start longer acting PO morphine
   Addendum:
   Am repeat labs show hct 29, platelet 52.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-4-24**] 06:34 AM 84 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-23**] 01:22 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes, critical care time

2167-04-25 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - holding acyclovir for now per BMT for bump in creatinine
   - Hct trended down overnight from 29 to 25, getting 1upRBCs now
   - s/p transfusion with 2u plts
   - restarted home regimen Ms Contin
   - Liver biopsy final report + GVHD
   - CMV VL + for >800 copies
   - BS low, received
 amp D50
   Pt doing okay, abd pain currently [**4-13**].  Denies CP/SOB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2167-4-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2167-4-24**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2167-4-25**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 89 (74 - 89) bpm
   BP: 171/115(126) {91/63(70) - 191/153(158)} mmHg
   RR: 28 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,070 mL
                                                                  1,199 mL
   PO:
                                                                  1,280 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    618 mL
                                                                     61 mL
   Blood products:
                                                                  1,142 mL
                                                                    277 mL
   Total out:
                                                                  3,455 mL
                                                                  1,520 mL
   Urine:
                                                                  3,455 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,615 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GEN: NAD, tremulous & appears mildly uncomfortable
   HEENT: diffuse darkened skin lesions, mild scleral icterus
   CV: RRR no m/r/g
   RESP: CTAB no w/r
   ABD: mildly distended & TTP over RUQ, no ecchymosis, NABS
   EXTR: no c/c/e (tremors)
   Labs / Radiology
   93 K/uL
   10.9 g/dL
   99 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   68 mg/dL
   105 mEq/L
   137 mEq/L
   25.4 %
   4.5 K/uL
        [image002.jpg] LFTs
   Repeat Am labs s/p 1upRBCs
   WBC 4.1, Hct 27.5, Plts 54                      Na 138, K 5.5, Cl 102,
   Cl 28, BUN 70, Creatinine 2.1
   AST 115, ALT 158, AP 134, T Bili 6.2
                             [**2167-4-23**]  09:27 AM
                             [**2167-4-23**]  12:25 PM
                             [**2167-4-23**]  04:34 PM
                             [**2167-4-23**]  06:53 PM
                             [**2167-4-23**]  08:48 PM
                             [**2167-4-24**]  03:32 AM
                             [**2167-4-24**]  08:44 AM
                             [**2167-4-24**]  03:40 PM
                             [**2167-4-24**]  07:27 PM
                             [**2167-4-25**]  12:01 AM
   WBC
   3.9
   4.9
   4.8
   4.4
   5.2
   4.5
   Hct
   20.0
   25.5
   18.3
   21.5
   22.6
   27.4
   29.4
   29.7
   27.9
   25.4
   Plt
   57
   46
   130
   107
   86
   58
   52
   39
   63
   93
   Cr
   2.0
   Glucose
   99
   Other labs: PT / PTT / INR:11.8/26.0/1.0, ALT / AST:133/101, Alk Phos /
   T Bili:123/5.0, Fibrinogen:291 mg/dL, Albumin:3.0 g/dL, LDH:780 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: [**2167-4-22**] 4:30 pm TISSUE     Site:
   LIVER      Source: Liver r/o CMV.
      GRAM STAIN (Final [**2167-4-22**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      TISSUE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      VIRAL CULTURE (Preliminary):    No Virus isolated so far.
      CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Pending):
   Microbiology: CVM VL + for > 800copies today
   [**4-22**] Liver, transjugular needle biopsy:
   1.  Mild portal, predominantly mononuclear inflammation with
   lymphocytic bile duct infiltration, associated bile duct damage and
   focal endothelialitis, see note.
   2.  Marked iron deposition in Kupffer cells and mild to moderate iron
   within hepatocytes on special stain; focal associated hepatocyte
   necrosis seen.
   3.  Scattered apoptotic hepatocytes with minimal lobular inflammation;
   no significant steatosis present.
   4.  GMS stain is negative for fungi, with a satisfactory control.
   5.  CMV immunostain is negative for viral inclusions, with a
   satisfactory control.
   6.  Trichrome stain demonstrates minimal portal fibrosis.
   Note:  The biliary features are consistent with acute graft vs. host
   disease. A component of injury related to hemachromatosis is also
   identified
   Assessment and Plan
   54 y.o. M with hx of recurrent multiple myeloma now Day 100 s/p cord
   blood transplant course c/b CMV viremia, ARF, low level hemolysis &
   GVHD in liver & colon
   .
   # s/p transjugular biopsy c/b bleed: Pt transferred to  [**Hospital Unit Name 44**] with HCT
   drop, CT abd showed increasing perihepatic hematoma, hct stable through
   day but trended down in evening from 29 to 25. Receiving 1upRBCs now,
   plts transfused up to 93.
   - f/u post transfusion hct, transfusion goal 27-30
   - f/u pm plts, goal transfusion plt ct>50
   - serial abd exams
   - surgery & IR aware (page [**Numeric Identifier 1727**] , Dr. [**Last Name (STitle) 1728**] if needed) no plan for
   acute intervention
   - starting Ms Contin 15mg [**Hospital1 **] with breakthrough morphine prn
   # Multiple myeloma Day 100 s/p Cord Tranplant: recent bone marrow day
   +79 <10% celllular, markedly hypoplastic megakaryocytes. Chimerism:
   mostly donor so shouldn't be hemolysing.
   - monitor cell counts - still transfusion dependent (goal plts >50 &
   goal hct >27-30)
   - continue cellcept & methylprednislone per BMT
   - continue cyclosporin [**Month (only) 38**] to 150mg [**Hospital1 **]
   - f/u am cyclopsporin level & adjust prn for goal level 200
   .
   # CMV Viremia: CMV VL had been neg through [**Month (only) **]/[**Month (only) **]. Pt had been prev
   positive & treated with valgancyclovir, switched to foscarnet & most
   recently on acyclovir.  ID recommended continuing Acyclovir 400 [**Hospital1 **] for
   CMV ppx at least 1 year.  CMV Viral Load now positive with >800 copies
   likely due to increased immunosuppression
   - will give one dose of Acyclovir 400mg now & f/u BMT regarding plan
   for treatment of CMV viremia
   .
   #Abn LFTs
 most likely etiology GVHD given [**4-22**] liver biopsy positive,
   however, pt now has CMV viremia recurrence, may be contributing to abn
   LFTs.  Tbili up from 5 to 6.1 today, likely due to increased
   hemolysis.
   - trend LFTs daily
   - t/b with BMT regarding CMV treatment & immune suppression
   # ARF: Baseline creatinine 1.8, now trending up at 2.1 with transient
   hyperkalemia of 5.5, repeat K down at 4.1.  Etiology unclear, possibly
   cyclosporine induced [**Month (only) 38**] GFR , foscarnet, dehydration [**3-7**] chronic
   diarrhea  & drop in hct vs renal GVHD.  Acyclovir was held o/n per BMT
   due to concern for renal toxicity. Pt continues to have good UOP.
   -follow up pm lytes & send urine lytes if creatinine continues to rise
   -UPEP, SPEP negative
   # BRBPR/Diarrhea: recent EGD with e/o gastritis/duodenitis, path neg
   for CMV/GVHD. H. pylori Ab+, capsule showed persistent bleeding in SB,
   no intervention planned per GI.  Pt with persistent diarrhea despite
   increased immunosuppression for presumed GVH.  Currently on TPN &
   clears for bowel rest
   - current regimen of solu-medrol 40mg [**Hospital1 **], cellcept 750mg IV BID,
   cyclosporin 150mg [**Hospital1 **]
   - continue sucralfate, pantoprazole
   - transfusion scales: keep hct>27 and platelets>50
   .
   # HTN: continues to be mildly hypertensive, gave one time dose of
   hydralazine & sbp dropped to 100s
   - continue Amlodipine 10mg &  Labetalol 400 mg TID
   .
   # Diabetes: BS have been running  low despite steroids & TPN, will [**Month (only) 38**]
   insulin in TPN, this may be partly due to liver dysfunctn
   - Continue ISS, Dextrose prn & decrease insulin in TPN
   ICU Care
   Nutrition: TPN w/ Lipids - [**2167-4-24**] 06:25 PM 84 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Tunneled (Hickman) Line - [**2167-4-24**] 08:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU

2167-04-25 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Acyclovir held due to increase in creatinine. CMV titer increased
   Liver bx reported as definite GVHD
   Transfused 1 unit PRBC for Hct decrease to 25
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2167-4-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2167-4-24**] 08:00 PM
   Dextrose 50% - [**2167-4-25**] 08:15 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2167-4-25**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 86 (74 - 98) bpm
   BP: 147/91(105) {91/63(70) - 191/153(158)} mmHg
   RR: 17 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,070 mL
                                                                  1,562 mL
   PO:
                                                                  1,280 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    618 mL
                                                                     97 mL
   Blood products:
                                                                  1,142 mL
                                                                    277 mL
   Total out:
                                                                  3,455 mL
                                                                  2,320 mL
   Urine:
                                                                  3,455 mL
                                                                  2,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,615 mL
                                                                   -758 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   54 K/uL
   262 mg/dL
   2.1 mg/dL
   28 mEq/L
   5.5 mEq/L
   70 mg/dL
   102 mEq/L
   138 mEq/L
   27.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2167-4-23**]  12:25 PM
                             [**2167-4-23**]  04:34 PM
                             [**2167-4-23**]  06:53 PM
                             [**2167-4-23**]  08:48 PM
                             [**2167-4-24**]  03:32 AM
                             [**2167-4-24**]  08:44 AM
                             [**2167-4-24**]  03:40 PM
                             [**2167-4-24**]  07:27 PM
                             [**2167-4-25**]  12:01 AM
                             [**2167-4-25**]  05:43 AM
   WBC
   4.9
   4.8
   4.4
   5.2
   4.5
   4.1
   Hct
   25.5
   18.3
   21.5
   22.6
   27.4
   29.4
   29.7
   27.9
   25.4
   27.5
   Plt
   46
   130
   107
   86
   58
   52
   39
   63
   93
   54
   Cr
   2.0
   2.1
   Glucose
   99
   262
   Other labs: PT / PTT / INR:11.8/24.6/1.0, ALT / AST:158/115, Alk Phos /
   T Bili:134/6.2, Fibrinogen:291 mg/dL, Albumin:3.0 g/dL, LDH:780 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   54 yr old s/p cord blood transplant d 99, course complicated by CMV
   viremia and now GVHD.
   S/p transjugular biopsy complicated by acute bleed.
   1. Acute bleeding - in setting of transjugular bx with refractory
   thrombocytopenia. Will need to keep platelets > 50 until Hct
   stabilizes.  Check hct [**5-10**] h for now. Aim for Hct ~23. Finally seems to
   be stabilizing.
   2. GVHD - on steroids, on cellcept, cyclo. On caspo for hx of fungal
   infection. Cyclo level 200, will touch base with heme about lowering
   goal given renal status
   3. Thrombocytopenia - multifactorial, keep > 50K
   4. CMV viremia - most recent viral load negative on [**4-21**], but 800
   copies on [**4-23**] titer.
   Acyclovir was held for increase in creatinine but that is less likely
   to be the culprit. Will give acyclovir this AM and discuss with ID.
   5. ARF - making urine, lytes ok. Etiology unclear, cyclosporine levels
   vs less likely acyclovir.
   6. HTN - stable, on norvasc, labetolol
   7. ID issues - low grade temps, no evidence of pneumonia. D/c levoflox.
   F/u cultures, so far negative.
   8. Pain control
 on MS contin.  Will d/c ativan.
   9. FEN - on TPN. Reduce insulin.
   Stable to transfer to floor
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-4-25**] 06:03 AM 84 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-24**] 08:54 PM
   Prophylaxis:
   DVT: Boots
   Comments:
   Communication: ICU consent signed, Code status: Full code, Disposition
   :Transfer to floor, Total time spent: 30 minutes